US05270309
Treatment of 3-dimethylaminopropyl 4-benzyloxy-5,7-dichloroquinoline-2-carboxylate (0.52 g) with hydrogen bromide in acetic acid (10 ml, 48%) as described in Example 33d gave 3-dimethylaminopropyl 5,7-dichloro-4-oxo-1,4-dihydroquinoline-2-carboxylate hydrobromide (0.27 g), m.p. 228° C. (dec). δ (360 MHz, DMSO-d6) 2.13 (2H, m, CO2CH2CH2), 2.81 (6H, s, (CH3)2) 3.25 (2H, t, CH2N), 4.42 (2H, t, CO2CH2), 6.72 (1H, s, 3-H), 7.45 (1H, d, 6-H), 8.01 (1H, d, 8-H), 9.43 (1H, bs, NH) and 12.04 (1H, bs, NH). (Found: C, 41.60; H, 4.34; N, 6.04%. C15H16Cl2N2O2. HBr.0.4H2O requires C, 41.77; H, 4.16; N, 6.49%).

reactant | 3-dimethylaminopropyl 4-benzyloxy-5,7-dichloroquinoline-2-carboxylate | 0.52 g | C(C1=CC=CC=C1)OC1=CC(=NC2=CC(=CC(=C12)Cl)Cl)C(=O)OCCCN(C)C | C22H22Cl2N2O3
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 3-dimethylaminopropyl 5,7-dichloro-4-oxo-1,4-dihydroquinoline-2-carboxylate hydrobromide | 0.27 g | Br.ClC1=C2C(C=C(NC2=CC(=C1)Cl)C(=O)OCCCN(C)C)=O | InChI=1S/C15H16Cl2N2O3.BrH/c1-19(2)4-3-5-22-15(21)12-8-13(20)14-10(17)6-9(16)7-11(14)18-12;/h6-8H,3-5H2,1-2H3,(H,18,20);1H
